US08865732B2
To a solution of 4-fluorobenzoyl isocyanate (1.2 g, 7.2 mmol) in DCM (25 mL) was added (trimethylsilyl)diazomethane (2.0 M in hexane, 4.3 mL, 8.6 mmol) at 0° C. The reaction mixture was stirred for 45 min at rt. The mixture was diluted with water and the separated aqueous phase was extracted with DCM (3×). The combined organic layers were dried over (Na2SO4), filtered and concentrated in vacuo. The resulting residue was purified by column chromatography (SiO2, 100:0-80:20 DCM-methanol) to afford 870 mg of 2-(4-fluorophenyl)oxazol-4(5H)-one: LCMS (m/z): 180.0 (MH+), tR=0.39 min

reactant | 4-fluorobenzoyl isocyanate | 7.2 mmol, 1.2 g | FC1=CC=C(C(=O)N=C=O)C=C1 | C8H4FNO2
reactant | (trimethylsilyl)diazomethane | 8.6 mmol, 2.0 M, 4.3 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-(4-fluorophenyl)oxazol-4(5H)-one | 870 mg | FC1=CC=C(C=C1)C=1OCC(N1)=O | C9H6FNO2
